US07989449B2
3-Bromo-5-ethoxy-benzoic acid [855198-27-5]
A solution of 3-bromo-5-ethoxy-benzonitrile (529 mg, 2.3 mmol) in a mixture of ethanol (8 mL) and water (1 mL) was treated with a solution of sodium hydroxide (47%, 0.66 mL) and the mixture heated under reflux for 1 hour. For the working-up, the mixture was evaporated under reduced pressure and the oily residue dissolved in tert-butylmethyl ether (60 mL) and water (30 mL). The organic layer was separated and evaporated, then treated again with tert-butylmethyl ether (120 mL) and 1 N hydrochloric acid (60 mL). The organic layer was separated and re-extracted twice with tert-butylmethyl ether (2×60 mL). The organic layers were combined, washed with brine, dried over sodium sulfate, and evaporated under reduced pressure. The title compound was obtained in quantitative yield and engaged in the next step without further purification. Mass (calculated) C9H9BrO3 [244]; (found) [M−H]+=243, 245.

reactant | 3-bromo-5-ethoxy-benzonitrile | 2.3 mmol, 529 mg | BrC=1C=C(C#N)C=C(C1)OCC | C9H8BrNO
reactant | sodium hydroxide | 0.66 mL | [OH-].[Na+]
reactant | ethanol | 8 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | 3-Bromo-5-ethoxy-benzoic acid | quantitative yield | BrC=1C=C(C(=O)O)C=C(C1)OCC | C9H9BrO3
